US05672611
B. 8,11-DICHLORO-6,11-DIHYDRO-5H-BENZO[5,6]CYCLO-HEPTA[1,2-b]PYRIDINE
To a mixture of 13.3 g (54 mmol) of 8-chloro-6,11-dihydro-11-hydroxy-5H-benzo[5,6]cyclohepta[1,2-b]pyridine in 290 mL of toluene at -15° C. and under an atmosphere of nitrogen was added via syringe pump over a period of 1 hour 6.20 mL (85.7 mmol) of thionyl chloride. The extent of reaction was monitored by TLC (50% ethyl acetate in hexanes). When completed the mixture was poured into 300 mL of 1.0N aqueous NaOH and extracted with ethyl acetate (5X). The combined organic portions were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was taken up in ethyl acetate, quickly filtered through basic alumina, and concentrated again to yield a product which was triturated with pentane to yield 10.22 g of the title compound as a tan solid.

reactant | 8-chloro-6,11-dihydro-11-hydroxy-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 54 mmol, 13.3 g | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2O)C1 | C14H12ClNO
reactant | thionyl chloride | 85.7 mmol, 6.20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | NaOH | 1.0N, 300 mL | [OH-].[Na+]
solvent | toluene | 290 mL | C1(=CC=CC=C1)C | C7H8
product | 8,11-DICHLORO-6,11-DIHYDRO-5H-BENZO[5,6]CYCLO-HEPTA[1,2-b]PYRIDINE | 10.22 g | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2Cl)C1 | C14H11Cl2N
